US09079866B2
Step C: 1-((2-Bromophenyl)sulfonyl)cyclopentanecarbonitrile
A mixture of 2-(2-bromophenylsulfonyl)acetonitrile (4.4 g, 17 mmol), tetrabutylammonium bromide (0.82 g, 2.6 mmol), 1,4-dibromobutane (3.85 g, 17.8 mmol) and NaOH (14 mL, 5 N) in DCM (30 mL) was stirred at rt for 5 h, before diluting with DCM (200 mL), washing with water (2×80 mL) and brine (60 mL), drying over Na2SO4, filtering, and concentrating to dryness. The residue was treated with IPA (20 mL) and sonicated before isolating the title compound (2.2 g) via vacuum filtration. The filtrate was concentrated to dryness and the resultant residue subjected to FCC to give additional title compound. MS (ESI): mass calcd. for C12H12BrFN3O2S, 312.98; m/z found, 314.0 [M+H]+. 1HNMR (300 MHz, CDCl3) δ 8.28 (dd, J=7.5, 1.5, 1H), 7.85 (dd, J=7.5, 1.5, 1H), 7.62-7.51 (m, 2H), 2.80-2.68 (m, 2H), 2.34-2.22 (m, 2H), 2.02-1.81 (m, 4H).

reactant | 2-(2-bromophenylsulfonyl)acetonitrile | 17 mmol, 4.4 g | BrC1=C(C=CC=C1)S(=O)(=O)CC#N | C8H6BrNO2S
reactant | 1,4-dibromobutane | 17.8 mmol, 3.85 g | BrCCCCBr | C4H8Br2
reactant | NaOH | 5 N, 14 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 2.6 mmol, 0.82 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-((2-Bromophenyl)sulfonyl)cyclopentanecarbonitrile | 2.2 g | BrC1=C(C=CC=C1)S(=O)(=O)C1(CCCC1)C#N | C12H12BrNO2S
